US07897788B2
Phenethyl-phenyl-amine (HNR11R12 for Example 84)
Sodium triacetoxyborohydride (5.46 g, 26 mmol) is added in small portions to a stirred solution of aniline (2.0 g, 21.5 mmol) and phenylacetaldehyde (2.83 g, 24 mmol) in dry DMF/MeOH/AcOH (87:10:3, 120 ml). After stirring at rt for 90 min, the volatiles are removed under reduced pressure. The residue is dissolved in dichloromethane (200 ml) and extracted twice with 1 N HCl. The combined aqueous layers are washed with EtOAc, then ammonium hydroxide solution is added to pH 9, and the mixture is extracted with dichloromethane. The solvent is evaporated, and the crude product is purified by silica gel chromatography (hexane/EtOAc, 5:1) affording pure title compound as a yellow oil.

reactant | Sodium triacetoxyborohydride | 26 mmol, 5.46 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | aniline | 21.5 mmol, 2.0 g | NC1=CC=CC=C1 | C6H7N
reactant | phenylacetaldehyde | 24 mmol, 2.83 g | C1(=CC=CC=C1)CC=O | C8H8O
solvent | DMF MeOH AcOH | 120 ml | CN(C)C=O.CO.CC(=O)O
product | Phenethyl-phenyl-amine | C(CC1=CC=CC=C1)NC1=CC=CC=C1 | C14H15N
